US08022208B2
Methyl 4-(2-oxo-1,2-dihydropyridin-3-yl)benzoate (1.04 g) was dissolved in N,N-dimethylformamide (20 mL), and sodium carbonate (1.88 g) and (2-chloroethyl)dimethylamine hydrochloride (981 mg) were added, followed by stirring at 80° C. for 7 hours. Then, potassium carbonate (628 mg) was added, followed by stirring for 2 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue, followed by extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by NH-silica gel column chromatography (hexane:ethyl acetate=9:1 to 1:1) to obtain methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate (954 mg) as a yellow oil.

reactant | Methyl 4-(2-oxo-1,2-dihydropyridin-3-yl)benzoate | 1.04 g | O=C1NC=CC=C1C1=CC=C(C(=O)OC)C=C1 | C13H11NO3
reactant | sodium carbonate | 1.88 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (2-chloroethyl)dimethylamine hydrochloride | 981 mg | Cl.ClCCN(C)C
reactant | potassium carbonate | 628 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate | 954 mg | CN(CCN1C(C(=CC=C1)C1=CC=C(C(=O)OC)C=C1)=O)C | C17H20N2O3
